simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=ss
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "cells.scs"
parameters vddval=1.2
VDD (vdd 0) vsource dc=vddval
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=60

VI (inp 0) vsource type=pulse val0=0 val1=1.2 period=1.01626016260163n width=0.48813008130081503n rise=20p fall=20p delay=100p
XB (inp out vdd 0) tx_output_buffer
CL (out 0) capacitor c=10f
tran tran stop=25n errpreset=conservative maxstep=10p
save inp out VDD:p
saveOptions options save=selected
